US05338855
1 g of sodium borohydride was added, whilst ice-cooling, to a solution of 11 g of 3-chloro-2-(4-nitrophenoxy)-1,4-naphthoquinone (prepared as described in Preparation 17) in 150 ml of methanol, and the mixture was stirred, whilst ice-cooling, for 30 minutes. The mixture was then poured into a mixture of ice and 15 ml of 2N aqueous hydrochloric acid to give a precipitate, which was collected by filtration, washed with water and dried under reduced pressure in the presence of phosphorus pentoxide, to give 9 g of 3-chloro-1,4-dihydroxy-2-(4-nitrophenoxy)naphthalene.

reactant | sodium borohydride | 1 g | [BH4-].[Na+]
reactant | 3-chloro-2-(4-nitrophenoxy)-1,4-naphthoquinone | 11 g | ClC1=C(C(C2=CC=CC=C2C1=O)=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C16H8ClNO5
reactant | hydrochloric acid | 2N, 15 ml | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
product | 3-chloro-1,4-dihydroxy-2-(4-nitrophenoxy)naphthalene | 9 g | ClC=1C(=C(C2=CC=CC=C2C1O)O)OC1=CC=C(C=C1)[N+](=O)[O-] | C16H10ClNO5
